US09056854B2
A solution of acid 7 (0.3 g, 1 mmol), HOBT.NH3 (0.3 g, 2 mmol), TBTU (0.64 g, 2 mmol), DIEA (1 mL, 6 mmol) in DMF (4 mL) was stirred at rt for 6 h. The reaction mixture was poured into water and the aqueous phase was extracted (×3) with EtOAc. The organic phase was washed with 1N NaOH, then with water, brine, dried (Na2SO4) and concentrated. The crude material was purified by silica gel chromatography (DCM/MeOH 12:1) to yield 2-cyclohexyl-5-pyridin-4-yl-1H-pyrrole-3-carboxylic acid amide (0.12 g, 43%) as a white solid.

reactant | HOBT | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | NH3 | 2 mmol, 0.3 g | N | H3N
reactant | TBTU | 2 mmol, 0.64 g | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=C2)N=N1.[B-](F)(F)(F)F
reactant | DIEA | 6 mmol, 1 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | DMF | 4 mL | CN(C)C=O | C3H7NO
solvent | water | O | H2O
product | 2-cyclohexyl-5-pyridin-4-yl-1H-pyrrole-3-carboxylic acid amide | 0.12 g, 43% | C1(CCCCC1)C=1NC(=CC1C(=O)N)C1=CC=NC=C1 | C16H19N3O
